US07498337B2
1-{1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride
tert-Butyl({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrr-ol-3-yl}methyl)methylcarbamate (120 mg) was dissolved in ethanol (3 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (1 mL) was added. After stirring at room temperature for 4 hr, the mixture was concentrated under reduced pressure, and the residue was recrystallized from ethanol to give the title compound as a solid (yield 51.3 mg, 49%).

reactant | tert-Butyl({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrr-ol-3-yl}methyl)methylcarbamate | 120 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=C(C1)Br)=O | C22H24BrN3O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 1 mL | C(C)(=O)OCC.Cl
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-{1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride | yield 51.3 mg, 49% | Cl.BrC=1C=C(C=NC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | InChI=1S/C17H16BrN3O2S.ClH/c1-19-9-13-7-17(14-5-3-2-4-6-14)21(12-13)24(22,23)16-8-15(18)10-20-11-16;/h2-8,10-12,19H,9H2,1H3;1H
